US07074817B2
1-Benzyl-6-[4-(trifluoromethyl)phenyl]-1H-indole
Following the procedure described in Step 2 of Example 5, 1-benzyl-6-bromo-1H-indole (0.490 g, 1.71 mmol), was coupled to 4-trifluoromethylbenzeneboronic acid (0.376 g, 1.98 mmol), using tetrakis(triphenylphosphine)palladium (0.0663 g, 0.057 mmol) and sodium carbonate (0.733 g, 6.92 mmol) in water (3.5 mL), ethanol (2 mL) and toluene (10 mL). Purification by flash chromatography using 0-1% ethyl acetate in hexane as an eluant yielded the title compound as a yellow solid (0.426 g, 71%), mp: 83-85° C. 1HNMR (300 MHz, DMSO-d6): δ 7.9 (d, 3H, J=7.7 Hz), 7.8 (d, 2H, J=7.7 Hz), 7.7 (d, 1H, J=7.7 Hz), 7.6 (d, 1H, J=3.9 Hz), 7.4 (d, 1H, J=7.7 Hz), 7.2-7.4 (m, 5H), 6.55 (d, 1H, J=2.3 Hz), and 5.55 ppm (s, 2H).

reactant | 1-benzyl-6-bromo-1H-indole | 1.71 mmol, 0.490 g | C(C1=CC=CC=C1)N1C=CC2=CC=C(C=C12)Br | C15H12BrN
reactant | 4-trifluoromethylbenzeneboronic acid | 1.98 mmol, 0.376 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 6.92 mmol, 0.733 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 3.5 mL | O | H2O
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.057 mmol, 0.0663 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-Benzyl-6-[4-(trifluoromethyl)phenyl]-1H-indole | 0.426 g, 71% | C(C1=CC=CC=C1)N1C=CC2=CC=C(C=C12)C1=CC=C(C=C1)C(F)(F)F | C22H16F3N
